US06982348B2
N-{(1RS,2RS)-2-hydroxy-2-(5-phenoxypyridin-2-yl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide
Trifluoroacetic acid (5 ml) was added to tert-butyl (1RS,2RS)-2-hydroxy-2-(5-phenoxypyridin-2-yl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethylcarbamate (300 mg, 0.56 mmol), and the mixture was stirred at 0° C. for 10 min. The reaction solution was neutralized with saturated aqueous sodium hydrogen carbonate, and extracted with ethyl acetate (20 ml×2). The extract was washed with saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. To the residue in acetonitrile (20 ml) were added 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid (105 mg, 0.56 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (161 mg, 0.84 mmol) and 1-hydroxybenzotriazole hydrate (86 mg, 0.56 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1). Recrystallization from ethyl acetate-hexane gave the objective substance (140 mg, 41%).

reactant | Trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (1RS,2RS)-2-hydroxy-2-(5-phenoxypyridin-2-yl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethylcarbamate | 0.56 mmol, 300 mg | OC(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(OC(C)(C)C)=O)C1=NC=C(C=C1)OC1=CC=CC=C1 | C27H28F4N2O5
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid | 0.56 mmol, 105 mg | C=1(C=CC=C2C1C=CCCC2)C(=O)O | C12H12O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.84 mmol, 161 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 0.56 mmol, 86 mg | O.ON1N=NC2=C1C=CC=C2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | N-{(1RS,2RS)-2-hydroxy-2-(5-phenoxypyridin-2-yl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide | OC(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(=O)C=1C=CC=C2C1C=CCCC2)C2=NC=C(C=C2)OC2=CC=CC=C2 | C34H30F4N2O4
